US07183293B2
2-(Benzo[1,3]dioxol-5-yloxy)-N-(2-fluoro-4-hydroxy-benzyl)-nicotinamide of Formula (5.0.36)
A solution of 4-aminomethyl-3-fluoro-phenol hydrochloride (4.75 g, 27 mmol) in N,N-dimethylformamide (20 ml) was added to a stirred solution of 2-(benzo-[1,3]-dioxol-5-yloxy)-nicotinic acid (14 g, 54 mmol), 1-hydroxybenzotriazole hydrate (7.29 g, 54 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (10.37 g, 54 mmol), and triethylamine (3.76 ml, 27 mmol) in N,N-dimethylformamide (130 ml) at room temperature and stirred over night. The reaction was quenched into dilute aqueous hydrochloric acid and extracted with diethyl ether, then ethyl acetate. The pooled organic layers were washed successively with dilute aqueous sodium hydroxide, water, and brine. The solvents were stripped in vacuo to afford 12.2 g crude. The residue was dissolved in methanol (100 ml) and stirred with lithium hydroxide (10 ml, 1M) for 1 h to hydrolyze the ester of the bis-acylated product. Solvents were stripped in vacuo, the residue was diluted with water (200 ml) and saponified to pH 12 with sodium hydroxide. The precipitate was filtered off, and the filtrate was acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate (2×200 ml). The pooled organics were washed with 2N sodium carbonate, then brine and dried (MgSO4). The solvents were stripped in vacuo to afford pure product (5.7 g, 14.9 mmol) in 55% yield.

reactant | 4-aminomethyl-3-fluoro-phenol hydrochloride | 27 mmol, 4.75 g | Cl.NCC1=C(C=C(C=C1)O)F
reactant | 2-(benzo-[1,3]-dioxol-5-yloxy)-nicotinic acid | 54 mmol, 14 g | O1COC2=C1C=CC(=C2)OC2=C(C(=O)O)C=CC=N2 | C13H9NO5
reactant | 1-hydroxybenzotriazole hydrate | 54 mmol, 7.29 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 54 mmol, 10.37 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 27 mmol, 3.76 ml | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide | 1M, 10 ml | [OH-].[Li+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 2-(Benzo[1,3]dioxol-5-yloxy)-N-(2-fluoro-4-hydroxy-benzyl)-nicotinamide | 14.9 mmol, 5.7 g, 55% yield | O1COC2=C1C=CC(=C2)OC2=C(C(=O)NCC1=C(C=C(C=C1)O)F)C=CC=N2 | C20H15FN2O5
